US05336778
Step E: Preparation of 4-[[2'-(t-Butyoxycarbonyl)biphenyl-4-yl]methyl]-5-n-butyl-2,4-dihydro-3H-1,2,4-triazole-3-thione
A solution of 1.11 g (3.1 mmole) of 4-[[2'-(t-butoxycarbonyl)biphenyl-4-yl]methyl]-3-thiosemicarbazide and 792 μl (745 mg, 4.6 mmole) of trimethyl orthovalerate in 10 ml of 2-methoxyethanol was stirred at reflux under N2 for 15 hours. The cooled solution was concentrated, and the residue was purified by column chromatography on silica gel (gradient elution with 0-1% methanol in CH2Cl2) to give a gum which could be crystallized by trituration with petroleum ether. The product (828 mg, 63%, mp 135°-137° C.) was homogeneous by TLC in 19:1 CH2Cl2 --MeOH; mass spectrum (FAB) m/e 424 (M+1).

reactant | 4-[[2'-(t-butoxycarbonyl)biphenyl-4-yl]methyl]-3-thiosemicarbazide | 3.1 mmole, 1.11 g | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CNC(NN)=S | C19H23N3O2S
reactant | trimethyl orthovalerate | 4.6 mmole, 792 μl, 745 mg | C(CCCC)(OC)(OC)OC | C8H18O3
solvent | 2-methoxyethanol | 10 ml | COCCO | C3H8O2
product | 4-[[2'-(t-Butyoxycarbonyl)biphenyl-4-yl]methyl]-5-n-butyl-2,4-dihydro-3H-1,2,4-triazole-3-thione | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(NN=C1CCCC)=S | C24H29N3O2S
